US07018559B2
B. Synthesis of 1-(7-oxabicyclo[4.1.0]hept-3-yl)-1-hexanone
A 500 mL round bottom flask equipped with a stirrer bar was charged with 8.42 g (0.0668 mol) 1-(3-cyclohexen-1-yl)-1-hexanone, and 80 mL of methylene chloride. Peracetic acid (14.5 g, 35 wt. % in acetic acid; 0.0668 mol) in methylene chloride (60 mL) was added dropwise to above mixture over 20 min. in an ice bath. After the above mixture was reacted at room temperature overnight, 200 mL of water was added to above reaction mixture, the water layer was extracted with methylene chloride (2×100 mL), the organic layer was combined, and washed with saturated sodium carbonate solution (2×100 mL), then with water (2×100 mL), dried with sodium sulfate. The solvent was evaporated and the residue distilled to give pure product.

reactant | 1-(3-cyclohexen-1-yl)-1-hexanone | 0.0668 mol, 8.42 g | C1(CC=CCC1)C(CCCCC)=O | C12H20O
reactant | Peracetic acid | 0.0668 mol, 14.5 g | C(C)(=O)OO | C2H4O3
reactant | water | 200 mL | O | H2O
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 1-(7-oxabicyclo[4.1.0]hept-3-yl)-1-hexanone | C12CC(CCC2O1)C(CCCCC)=O | C12H20O2
